US05324747
N-(Carboxymethyl)-N-[3-hydroxy-5-(octadecyloxy)phenyl]glycine
To solution of 1.0 g (1.87 mmol) of N-[3-(acetyloxy)-5-(octadecyloxy)phenyl-N-(carboxymethyl)glycine in 30 ml of dioxane and 70 ml of methanol was added 1.6 mol (9.6 mmol) of 6N NaOH The solution was kept at room temperature for 60 hours. The solvent was removed at reduced pressure and the residue wa acidified with 3N HCl. The resultant solid was filtered to give 0.546 g, mp 143°-146°, of pure N-carboxymethyl)-N-[3-hydroxy-5-(octadecyloxy)phenyl]glycine.

reactant | 3-(acetyloxy)-5-(octadecyloxy)phenyl-N-(carboxymethyl)glycine | C(C)(=O)OC=1C=C(C=C(C1)OCCCCCCCCCCCCCCCCCC)N(CC(=O)O)CC(=O)O | C30H49NO7
reactant | NaOH | 1.6 mol, 6N | [OH-].[Na+]
reactant | N-[3-hydroxy-5-(octadecyloxy)phenyl]glycine | OC=1C=C(C=C(C1)OCCCCCCCCCCCCCCCCCC)NCC(=O)O | C26H45NO4
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 70 ml | CO | CH4O
product | N-(Carboxymethyl)-N-[3-hydroxy-5-(octadecyloxy)phenyl]glycine | C(=O)(O)CN(CC(=O)O)C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)O | C28H47NO6
